US08053438B2
To a suspension of (1H-benzo[d]imidazol-2-yl)(4-(3-(2-(4-methoxybenzyloxy)pyridin-3-yl)pyrazin-2-yloxy)phenyl)methanone (0.050 g, 0.094 mmol) in DCM/water in a 50 mL round bottom flask was added DDQ (0.026 g, 0.113 mmol) and dioxane (1 mL). The mixture was stirred at 60° C. for 16 h. The mixture was diluted with saturated NaHCO3 and extracted with DCM (3×25 mL). The combined organic layer was washed with saturated NaHCO3 and brine. The insoluble material was collected, washed with ethanol, filtered and dried in vacuo to give 3-(3-(4-(1H-benzo[d]imidazole-2-carbonyl)phenoxy)pyrazin-2-yl)pyridin-2(1H)-one. MS (ESI, pos. ion) m/z: 410.2 (M+1). IC50 (uM) +++++.

reactant | (1H-benzo[d]imidazol-2-yl)(4-(3-(2-(4-methoxybenzyloxy)pyridin-3-yl)pyrazin-2-yloxy)phenyl)methanone | 0.094 mmol, 0.050 g | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2C=2C(=NC=CC2)OCC2=CC=C(C=C2)OC | C31H23N5O4
reactant | DDQ | 0.113 mmol, 0.026 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | DCM water | C(Cl)Cl.O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-(3-(4-(1H-benzo[d]imidazole-2-carbonyl)phenoxy)pyrazin-2-yl)pyridin-2(1H)-one | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(OC=1C(=NC=CN1)C=1C(NC=CC1)=O)C=C2 | C23H15N5O3
